US04082778
27.7 parts of 1,3-dichloroanthraquinone, 18.15 parts of 2-chloro-4-nitroaniline and 10 parts of sodium carbonate are suspended in 400 parts of o-dichlorobenzene whilst stirring. After adding a solution of 0.4 part of copper-(I) iodide in 5 parts of pyridine and 25 parts of toluene, the mixture is kept at 160°-165° for 5 hours, whilst eliminating the water of reaction. When the mixture has cooled, it is filtered and the precipitate is washed with o-dichlorobenzene, acetone and hot water and extracted by boiling with dilute hydrochloric acid. 29 parts of 1-(2'-chloro-4'-nitroanilino)-3-chloroanthraquinone, which bulk-dyes PES in orange shades of good fastness properties, are obtained.

reactant | 1,3-dichloroanthraquinone | ClC1=CC(=CC=2C(C3=CC=CC=C3C(C12)=O)=O)Cl | C14H6Cl2O2
reactant | 2-chloro-4-nitroaniline | ClC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | copper-(I) iodide | [Cu]I
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(2'-chloro-4'-nitroanilino)-3-chloroanthraquinone | ClC1=C(NC2=CC(=CC=3C(C4=CC=CC=C4C(C23)=O)=O)Cl)C=CC(=C1)[N+](=O)[O-] | C20H10Cl2N2O4
